US04440802
EPOXIDE RESIN A
N,N'-Diglycidyl-5,5'-dimethylhydantoin (8.04 epoxide equiv./kg, 100 g), bisphenol A diglycidyl ether (5.30 epoxide equiv./kg, 100 g), 1,4-butane diol (37.2 g) and N-phenylimidazole (0.2 g) are stirred at 120° C. for 5 hours. A further portion of 2-phenylimidazole (0.2 g) is added and the heating is continued at 120° C. for another 5 hours and then at 140° C. for 61/2 hours, by which time the epoxide content of the mixture is 2.44 equiv./kg.

reactant | bisphenol A diglycidyl ether | C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | C21H24O4
reactant | 1,4-butane diol | 37.2 g | C(CCCO)O | C4H10O2
reactant | N-phenylimidazole | 0.2 g | C1(=CC=CC=C1)N1C=NC=C1 | C9H8N2
reactant | 2-phenylimidazole | 0.2 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
product | EPOXIDE RESIN | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
